US07612060B2
Step (ii): Synthesis of (R)-3-((1-((R)-6-((2,2-dimethylethylamino)methyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)methyl)-4-(4-methylbenzenesulfonyl)-3,4-dihydropyrazin-2(1H)-one (64)
(R)-5-(4-(((R)-3—Oxo-1-(4-methylbenzenesulfonyl)-1,2,3,4-tetrahydropyrazin-2-yl)-methyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde (1.1 mmol, 1 eq) was dissolved in DCE and treated with 4 Å powdered molecular sieves. To the solution was added t-butyl amine (3.2 mmol, 3.0 eq) and AcOH (3.2 mmol, 3.0 eq). The reaction stirred at RT overnight. NaBH(OAc)3 (3.3 mmol, 3.0 eq) was added and after 3 h, the solvent was removed and the residue was purified by SiO2 to afford amine the title compound (MS (m/z): 549.3 (m+H)).

reactant | (R)-5-(4-(((R)-3—Oxo-1-(4-methylbenzenesulfonyl)-1,2,3,4-tetrahydropyrazin-2-yl)-methyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | 1.1 mmol, 1 eq | O=C1[C@H](N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)CC=1N=NN(C1)[C@H]1C=2C=CC(=CC2CCC1)C=O | C25H25N5O4S
reactant | t-butyl amine | 3.2 mmol, 3.0 eq | C(C)(C)(C)N | C4H11N
reactant | AcOH | 3.2 mmol, 3.0 eq | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 3.3 mmol, 3.0 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | ClCCCl | C2H4Cl2
product | (R)-3-((1-((R)-6-((2,2-dimethylethylamino)methyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)methyl)-4-(4-methylbenzenesulfonyl)-3,4-dihydropyrazin-2(1H)-one | CC(CNCC=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@@H]1C(NC=CN1S(=O)(=O)C1=CC=C(C=C1)C)=O)C | C29H36N6O3S
